US06562807B2
(5-Amino-2-trifluoromethoxyphenyl)methanol (1.2 g, 5.8 mmol) was dissolved in DMF (5 mL) and imidazole (0.48 g, 7.1 mmol) and tert-butyldimethylsilylchloride (0.99 g, 6.6 mmol) were added and the mixture was stirred for 16 hours. The reaction mixture was extracted with ethyl acetate (50 mL) and water (20 mL). The aqueous phase was extracted once more with ethyl acetate (20 mL). The combined organic phases were washed with water (10 mL), aqueous citric acid (10 mL, 10%) and water (2×10 mL), dried (magnesium sulphate) and concentrated in vacuo. The residue was purified by column chromatography (110 g, silica gel) using ethyl acetate and heptane (1:3) as eluent to give 1.2 g of 3-(tert-butyldimethylsilanyloxymethyl)-4-trifluoromethoxyphenylaniline.

reactant | (5-Amino-2-trifluoromethoxyphenyl)methanol | 5.8 mmol, 1.2 g | NC=1C=CC(=C(C1)CO)OC(F)(F)F | C8H8F3NO2
reactant | imidazole | 7.1 mmol, 0.48 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilylchloride | 6.6 mmol, 0.99 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(tert-butyldimethylsilanyloxymethyl)-4-trifluoromethoxyphenylaniline | 1.2 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1OC(F)(F)F)NC1=CC=CC=C1 | C20H26F3NO2Si
